US07745630B2
Preparation 167: 1-(5-Chloro-2-nitrobenzyl)pyrrolidine
Pyrrolidine (4 mL, 48.5 mmol) was added to a solution of 5-chloro-2-nitrobenzaldehyde (6 g, 32.2 mmol) in dichloromethane (150 mL) and the solution was stirred at room temperature for 30 minutes. The solution was then cooled in ice, and sodium triacetoxyborohydride (10.3 g, 48.5 mmol) was added portionwise. Once addition was complete, the reaction was stirred at room temperature for 4 hours. The reaction was washed with sodium carbonate solution, dried over MgSO4 and evaporated under reduced pressure. The residual oil was purified by column chromatography on silica gel using ethyl acetate:pentane (86:14) to afford the title compound as a pale yellow solid, 6.3 g.

reactant | Pyrrolidine | 48.5 mmol, 4 mL | N1CCCC1 | C4H9N
reactant | 5-chloro-2-nitrobenzaldehyde | 32.2 mmol, 6 g | ClC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H4ClNO3
reactant | sodium triacetoxyborohydride | 48.5 mmol, 10.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 1-(5-Chloro-2-nitrobenzyl)pyrrolidine | ClC=1C=CC(=C(CN2CCCC2)C1)[N+](=O)[O-] | C11H13ClN2O2
